US06822069B2
(1) Synthesis of 2,3-di(4-methylphenyl)-5-nitroquinoxaline
1.84 g (12 mmol) of 2,3-diaminonitrobenzene and 2.38 g (10 mmol) of 4,4′-dimethylbenzil were dissolved in 40 g of a 1:1 mixed solvent of acetic acid/methanol, and reaction was allowed at 80° C. for 4 hr. After the reaction was over, the solvent was removed, and the reaction product was extracted on a silica gel column.

reactant | 2,3-diaminonitrobenzene | 12 mmol, 1.84 g | NC1=C(C=CC=C1N)[N+](=O)[O-] | C6H7N3O2
reactant | 4,4′-dimethylbenzil | 10 mmol, 2.38 g | CC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)C | C16H14O2
solvent | acetic acid methanol | C(C)(=O)O.CO
product | 2,3-di(4-methylphenyl)-5-nitroquinoxaline | CC1=CC=C(C=C1)C1=NC2=CC=CC(=C2N=C1C1=CC=C(C=C1)C)[N+](=O)[O-] | C22H17N3O2
